US06964979B2
5-Bromo-4-fluoro-2-methylaniline
The mixture of Iron powder (17.8 g, 318 mmol) and NH4Cl (5.10 g, 95.4 mmol) in water (100 mL) was refluxed for 30 minutes. To this hot mixture was added 4-bromo-3-fluoro-6-nitrotoluene (18.6 g, 79.5 mmol) slowly and then the reaction mixture was refluxed for 48 hours. The mixture was cooled to room temperature and extracted with EtOAc (3×200 mL). The organic solution was washed with H2O (3×300 mL) and brine (300 mL), dried (Na2SO4), and concentrated. The residue was purified by flash chromatography (silica, 20% EtOAc in hexanes) to give 11.7 g (72%) of title compound as a pale yellow solid. 1H NMR (CDCl3): 300 MHz δ 6.82 (m, 2H), 3.49 (bs, 2H), 2.11 (s, 3H).

reactant | NH4Cl | 95.4 mmol, 5.10 g | [NH4+].[Cl-]
reactant | 4-bromo-3-fluoro-6-nitrotoluene | 79.5 mmol, 18.6 g | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C)F | C7H5BrFNO2
solvent | water | 100 mL | O | H2O
catalyst | Iron | 318 mmol, 17.8 g | [Fe] | Fe
product | 5-Bromo-4-fluoro-2-methylaniline | 11.7 g, 72% | BrC=1C(=CC(=C(N)C1)C)F | C7H7BrFN
